US03963706
c. 1-(4-Sulphamoylphenyl)-3-cyclohexylhydantoin
2-(N-Methoxycarbonyl-4-sulphamoylphenylamino)-N-cyclohexylacetamide (3.7 g) was dissolved in hot conc. KOH (15.0 ml). The solution was cooled and acidified with conc. HCl. The mixture was heated for 30 min. on a water bath and then filtered to yield 2.5 g product, m.p. 237° - 238°C (ethanol/water

reactant | 2-(N-Methoxycarbonyl-4-sulphamoylphenylamino)-N-cyclohexylacetamide | 3.7 g | COC(=O)N(CC(=O)NC1CCCCC1)C1=CC=C(C=C1)S(N)(=O)=O | C16H23N3O5S
reactant | HCl | Cl | ClH
solvent | KOH | 15.0 ml | [OH-].[K+]
product | 1-(4-Sulphamoylphenyl)-3-cyclohexylhydantoin | 2.5 g | S(N)(=O)(=O)C1=CC=C(C=C1)N1C(=O)N(C(=O)C1)C1CCCCC1 | C15H19N3O4S
